US04276304
A mixture of 700 mg of 2-n-butoxyphenylglyoxal hydrate, 500 mg of α,α-dimethyl-3,4-methylenedioxyphenethylamine and 1.5 ml of dimethylsulfoxide is stirred at room temperature for 45 minutes, whereby a solution of α-(α,α-dimethyl-3,4-methylenedioxyphenethylimino)-2-n-butoxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-n-butoxyphenylglyoxal hydrate | 700 mg | O.C(CCC)OC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-3,4-methylenedioxyphenethylamine | 500 mg | CC(CC1=CC2=C(C=C1)OCO2)(C)N | C11H15NO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-3,4-methylenedioxyphenethylimino)-2-n-butoxyacetophenone | CC(CC1=CC2=C(C=C1)OCO2)(C)N=C(C(=O)C2=CC=CC=C2)OCCCC | C23H27NO4
